US06677324B1
a) 11β-Fluorooestr-4-ene-3,17-dione
4.6 ml of perfluorobutane-1-sulphonyl fluoride are added dropwise at 0° C. to 5.0 g of 11β-hydroxyoestr-4-ene-3,17-dione in 100 ml of toluene and 7.3 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene. After 30 min, the solution is diluted with ethyl acetate, washed with saturated sodium chloride solution, dried and concentrated in vacuo. After chromatographing the crude product on silica gel using a hexane-ethyl acetate gradient, 3.8 g of 11β-fluorooestr-4-ene-3,17-dione of melting point 173-174° C. are obtained.

reactant | perfluorobutane-1-sulphonyl fluoride | 4.6 ml | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | 11β-hydroxyoestr-4-ene-3,17-dione | O[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H24O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.3 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-Fluorooestr-4-ene-3,17-dione | F[C@@H]1[C@@H]2[C@H]3CCC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)=O | C18H23FO2
